US08633200B2
A solution of (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.035 g, 0.079 mmol) and 1M NaOH (0.788 ml, 0.788 mmol) in MeOH (5 mL) was heated at reflux for 4 h. Then, cooled, neutralized with 1M HCl (0.8 mL), concentrated and the residue was taken up in Et2O (25 mL), washed with water (5 mL), brine (5 mL), dried (MgSO4), filtered and concentrated to give (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (0.0303 g, 0.069 mmol, 88% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ: 7.99-7.96 (m, 1H), 7.85 (dt, J=7.3, 1.4 Hz, 1H), 7.41-7.33 (m, 2H), 6.82 (s, 1H), 5.41 (s, 1H), 3.75-3.56 (m, 1H), 3.05-2.92 (m, 1H), 2.65 (s, 3H), 2.55 (br. s., 1H), 1.29 (s, 9H), 1.09 (d, J=6.7 Hz, 3H), 1.02 (d, J=6.4 Hz, 3H). LCMS (M+H) calcd for C23H29ClN3O3: 430.19. found: 430.3.

reactant | (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.079 mmol, 0.035 g | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1CC(C)C)N=C(C2)C2=CC(=CC=C2)Cl)C | C24H30ClN3O3
reactant | NaOH | 0.788 mmol, 1M, 0.788 ml | [OH-].[Na+]
reactant | HCl | 1M, 0.8 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.069 mmol, 0.0303 g, 88% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1CC(C)C)N=C(C2)C2=CC(=CC=C2)Cl)C | C23H28ClN3O3
